US06271225B1
In the same manner as in Starting Material Synthesis Example 19 and using ethyl 2-(4,5-dichloro-2-nitroanilino)benzo[b]thiophene-3-carboxylate, ethyl acetate, 10% palladium-carbon and hydrogen (60 atm kg/cm2), ethyl 2-(2-amino-4,5-dichloroanilino)benzo[b]thiophene-3-carboxylate is obtained.

reactant | ethyl 2-(4,5-dichloro-2-nitroanilino)benzo[b]thiophene-3-carboxylate | ClC1=CC(=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=C1Cl)[N+](=O)[O-] | C17H12Cl2N2O4S
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | [C].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(2-amino-4,5-dichloroanilino)benzo[b]thiophene-3-carboxylate | NC1=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=C(C(=C1)Cl)Cl | C17H14Cl2N2O2S
